US04958029
N-benzyl-5,6-dihydroxy-N-methylisoindolinium bromide
To 10 g (24.3 mmol) of N-benzyl-5,6-dimethoxy-N-methylisoindolinium iodide, 50 ml of 48% hydrobromic acid was added, and the mixture was heated at reflux for 3 hours at an external temperature of 120° C. The reaction solution was evaporated to dryness under reduced pressure, and the crystal residue was washed with 20 ml of acetone to obtain 6.90 g of the above identified compound. The filtrate was left to stand overnight, to obtain 190 mg of the secondary crystals. The total yield was 7.09 g. The melting point, the infrared absorption spectrum and the 1H-NMR spectrum of this product agreed to those of Example 2.

reactant | N-benzyl-5,6-dimethoxy-N-methylisoindolinium iodide | 24.3 mmol, 10 g | [I-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)OC)OC)C
reactant | hydrobromic acid | 50 ml | Br | BrH
product | N-benzyl-5,6-dihydroxy-N-methylisoindolinium bromide | 190 mg | [Br-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)O)O)C | InChI=1S/C16H17NO2.BrH/c1-17(9-12-5-3-2-4-6-12)10-13-7-15(18)16(19)8-14(13)11-17;/h2-8H,9-11H2,1H3,(H-,18,19);1H
